US07141561B2
N-Benzylidene-N′-(4-phenoxyphenyl)hydrazine
A suspension of (4-phenoxyphenyl)hydrazine (J. Org. Chem. 1956, 395; 1.5 g) in methanol (10 mL) was mixed with benzaldehyde (0.76 mL) and heated to reflux. The crystals which separated out on cooling were filtered off with suction. The product with the molecular weight of 288.35 (C19H16N2O); MS (ESI): 289 ([M+H]+), was obtained in this way.

reactant | (4-phenoxyphenyl)hydrazine | 1.5 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NN | C12H12N2O
reactant | benzaldehyde | 0.76 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 10 mL | CO | CH4O
product | N-Benzylidene-N′-(4-phenoxyphenyl)hydrazine | C(C1=CC=CC=C1)=NNC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H16N2O
